US05916889
12H-Dibenzo[d,g][1,3,6]dioxazocine (1.7 g, 8 mmol, similarly prepared as described in EXAMPLE 3) was dissolved in dry benzene (25 ml) at 45° C. In a nitrogen atmosphere, a suspension of sodium amide in toluene (1.1 g, 50%, 14 mmol) was added and the mixture was stirred at 70° C. for 2.5 h. Freshly distilled 1-tetrahydropyranyloxy-3-bromopropane (2.88 g, 13 mmol, 72° C./70 Pa) was added and the mixture was heated at reflux temperature for 14 h and left overnight at room temperature. Benzene (25 ml) and water (25 ml) were added to the reaction mixture, stirred for 15 min and separated. The organic extract was dried (sodium sulfate) and the solvent evaporated in vacuo. The residue (4.9 g) was dissolved in methanol (20 ml), 6 N hydrochloric acid (6.7 ml, 40 mmol) was added, the mixture was stirred at 22° C. for 40 minutes and alkalised with 2 N sodium carbonate (20 ml). The product was extracted with benzene (80 ml), the organic phase washed with water (30 ml), dried (sodium sulfate) and evaporated in vacuo (3.5 g). The raw product was purified by chromatography on silica gel (80 g), using a mixture of benzene and ethylacetate (10:1) as eluent. 12-(3-Hydroxypropyl)dibenzo[d,g][1,3,6]dioxazocine (1.36 g, 47%) was obtained as an oil.

reactant | 12H-Dibenzo[d,g][1,3,6]dioxazocine | C1=CC=CC=2OCOC3=C(NC21)C=CC=C3 | C13H11NO2
reactant | sodium amide | [NH2-].[Na+]
reactant | toluene | 14 mmol, 1.1 g | C1(=CC=CC=C1)C | C7H8
reactant | 1-tetrahydropyranyloxy-3-bromopropane | 13 mmol, 2.88 g | O1C(CCCC1)OCCCBr | C8H15BrO2
reactant | hydrochloric acid | 40 mmol, 6 N, 6.7 ml | Cl | ClH
reactant | sodium carbonate | 2 N, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | Benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | 25 ml | O | H2O
product | 12-(3-Hydroxypropyl)dibenzo[d,g][1,3,6]dioxazocine | 1.36 g, 47% | OCCCN1C2=C(OCOC3=C1C=CC=C3)C=CC=C2 | C16H17NO3
